Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Penicillins / Sulfa (Sulfonamide Antibiotics) / 
doxycycline
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
s/p ___ guided paracentesis; ___ guided omental biopsy
 
History of Present Illness:
___ yoF G0 who presented as a transfer from ___ 
___ to the ___ ED on ___ with acute onset RLQ and 
epigastric pain, found to have likely metastatic cancer of 
possible ovarian origin on imaging, now directly admitted to the 
Gyn Oncology service ___ the setting of worsening abdominal pain,
nausea and vomiting. The patient was seen by Dr. ___ ___ ___ 
___ clinic yesterday as an outpatient, noted to have 
significant abdominal distension ___ the setting of likely 
ascites. Her abdominal pain had worsened since the weekend when 
she was evaluated ___ the ED. She became more nauseated over the 
course of this past week and had multiple episodes of emesis, 
the last of which was this morning. She was taking 10mg of 
oxycodone Q6H for the pain, with intermittent relief. She has 
not had a bowel movement for at least three days and does not 
believe she has been passing gas. She denies urinary symptoms, 
but thinks her urine has been very dark ___ appearance, might 
have blood ___ it,
however she is unsure. She denies fevers or chills. She denies 
vaginal bleeding or vaginal discharge. She endorses some mild 
shortness of breath, however, feels improved since earlier 
today. She denies chest pain or chest pressure, denies feeling 
her heart race. She denies headache or dizziness. Up until this 
past ___ she felt completely well, aside from some 
intermittent back pain.

Of note, the decision was made to directly admit the patient to 
the hospital following ___ guided paracentesis today. She is now 
s/p paracentesis, drained 1L of purulent/feculent material. 
Drain left ___ place. Prior to drainage, air noted throughout 
abdomen on US with concern for possible tumor enteric fistula 
vs. bowel perforation. 
 
Past Medical History:
PMH:
- Lyme disease ___
- history of benign dura mater turmor as child
- Denies hypertension, diabetes, cardiovascular disease, asthma,
thromboembolic disease

PSH: 
- ganglion cyst excision
- benign dura mater tumor excision 
- abdominoplasty
- breast implants

POB: G0

PGYN: 
- LMP ___, denies postmenopausal bleeding
- Not currently sexually active 
- Bioidentical hormonal replacement therapy for ___ years
perimenopause
- Remote history of abnormal Pap smear ___ her ___, unsure if 
LEEP
was performed; last Pap ___ neg per patient
- Denies history of pelvic infections or sexually transmitted
infections
- Denies history of fibroids or cysts
 
Social History:
___
Family History:
- Maternal grandmother with breast cancer diagnosed age ___, died 
of stroke
- No known family history of uterine, ovarian, cervical or colon 
cancer
 
Physical Exam:
Admission Exam:
VS 98.2 HR110 BP 95/63 -> 132/75 RR18 O2Sat 96% on RA
GEN: NAD, lying on back ___ bed
CV: RRR
R: No respiratory distress on RA, decreased breath sounds at
bilateral bases
Abd: mildly firm throughout all four quadrants, ___ drain ___ 
place
___ RLQ with tan colored purulent drainage, mildly TTP ___ LLQ
otherwise mostly nontender to palpation, nonperitoneal, no
rebound or guarding
GU: deferred
Ext: WWP, no edema bilaterally

Discharge Exam:
VS: 98.1 104/70 82 18 95RA
JP drainage over past 24 hrs 275cc
___: laying ___ bed, NAD  
HEENT: NC/AT, EOMI, PERRL, MMM  
CARDIAC: RRR, normal S1 & S2, without murmurs, S3 or S4  
LUNG: clear to auscultation, no wheezes or rhonchi  
ABD: +BS, distended, NT, no rebound or guarding, drain on right 
side with light greenish/brown output 
EXT: No lower extremity pitting edema  
PULSES: 2+DP pulses bilaterally  
NEURO: A&O x 3, CN II-XII intact  
SKIN: Warm and dry, without rashes 
 
 
Pertinent Results:
LABORATORY STUDIES ON ADMISSION
=======================================
___ 01:25PM BLOOD WBC-18.5* RBC-3.68* Hgb-10.7* Hct-32.7* 
MCV-89 MCH-29.1 MCHC-32.7 RDW-14.7 RDWSD-48.4* Plt ___
___ 10:30AM BLOOD ___ PTT-26.9 ___
___ 05:35PM BLOOD Glucose-105* UreaN-55* Creat-1.0 Na-135 
K-4.9 Cl-98 HCO3-22 AnGap-20
___ 05:35PM BLOOD ALT-44* AST-111*
___ 05:35PM BLOOD Calcium-8.8 Phos-3.4 Mg-3.4*

OTHER PERTINENT LABORATORY STUDIES
=======================================
___ 07:10AM BLOOD ___ 03:45PM ASCITES ___ RBC-0 Polys-0 Lymphs-0 
Monos-0

DISCHARGE LABOARTORY STUDIES
=======================================
___ 05:03AM BLOOD WBC-40.5* RBC-2.75* Hgb-8.1* Hct-25.9* 
MCV-94 MCH-29.5 MCHC-31.3* RDW-18.1* RDWSD-60.3* Plt ___
___ 05:03AM BLOOD ___ PTT-27.2 ___
___ 05:03AM BLOOD Glucose-114* UreaN-12 Creat-0.4 Na-136 
K-4.2 Cl-100 HCO3-27 AnGap-13
___ 05:03AM BLOOD ALT-20 AST-35 LD(LDH)-372* AlkPhos-398* 
TotBili-0.2
___ 05:03AM BLOOD Calcium-7.5* Phos-3.4 Mg-1.9

MICROBIOLOGY
========================================
___ 5:40 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      BACTEROIDES FRAGILIS.    BETA LACTAMASE POSITIVE. 

   Anaerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___. ___ @ ___ 
ON
      ___. 
      GRAM NEGATIVE ROD(S). 

___ 9:20 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 12:41 pm SWAB     Site: PERITONEAL      COLLECTED ON A 
SWAB. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CHAINS. 
      1+    (<1 per 1000X FIELD):   YEAST(S). 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS. 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   WOUND CULTURE (Final ___: 
      WORK-UP PER ___ ___ (___) AND REPORT LEVOFLOXACIN 
___. 
      MIXED BACTERIAL FLORA. 
         This culture contains mixed bacterial types (>=3) so an
         abbreviated workup is performed. Any growth of 
P.aeruginosa,
         S.aureus and beta hemolytic streptococci will be 
reported. IF
         THESE BACTERIA ARE NOT REPORTED, THEY ARE NOT PRESENT 
___ this
         culture. 
      ESCHERICHIA COLI.    SPARSE GROWTH. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 
      ___ ALBICANS, PRESUMPTIVE IDENTIFICATION.    SPARSE 
GROWTH. 
      YEAST, PRESUMPTIVELY NOT C. ALBICANS.    SPARSE GROWTH. 
      VIRIDANS STREPTOCOCCI.    SPARSE GROWTH. 
      STREPTOCOCCUS ANGINOSUS (___) GROUP.    SPARSE GROWTH. 

         CLINDAMYCIN MIC >= 1.0 MCG/ML. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |          VIRIDANS STREPTOCOCCI
                             |          |          STREPTOCOCCUS 
ANGINOSUS (MI
                             |          |          |   
AMPICILLIN------------     8 S
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
CLINDAMYCIN-----------           <=0.25 S          R
ERYTHROMYCIN----------                2 R      =>8 R
GENTAMICIN------------   <=1 S
LEVOFLOXACIN----------<=0.12 S        1 S      0.5 S
MEROPENEM-------------<=0.25 S
PENICILLIN G----------           <=0.06 S   <=0.06 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S
VANCOMYCIN------------              0.5 S      0.5 S

   ANAEROBIC CULTURE (Final ___: 
      Mixed bacteria are present, which may include anaerobes 
and/or
      facultative anaerobes. The presence of B.fragilis, 
C.perfringens, and
      C.septicum is being ruled out. 
      CLOSTRIDIUM PERFRINGENS.    MODERATE GROWTH. 
      BACTEROIDES FRAGILIS GROUP.    MODERATE GROWTH. 
         BETA LACTAMASE POSITIVE. 

___ 7:10 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

IMAGING
=========================================
CT A/P ___:  
 1.  There is extravasation of enteric contrast into the right 
side of the large abdominal fluid and gas collection indicative 
of a bowel perforation. Although not well defined, the leak 
appears most likely from adjacent small bowel and less likely 
from adjacent ascending colon or cecum.  A pigtail catheter is 
coiled ___ the dependent portion of this fluid collection. 
 2.  Large pelvic mass concerning for ovarian or uterine 
malignancy with peritoneal carcinomatosis, distant 
lymphadenopathy, hepatic lesions, and osseous sclerotic foci 
compatible with diffuse metastases. 
 3.  Cholelithiasis, diverticulosis, and bilateral simple renal 
cysts. 
   
CT A/P ___:
1. Right-sided pigtail within a large rim enhancing loculated 
intra-abdominal fluid-gas collection, known to be draining 
purulent fluid. 
2. Enlarged, heterogeneous pelvic mass, likely uterine or 
adnexal, with central low-density areas possibly representing 
necrosis, with loculated intra-abdominal ascites and diffuse 
peritoneal carcinomatosis.  Possible tumor erosion and 
perforation through the right uterine fundal wall. 
3. Enlarged mesenteric, retroperitoneal, and pelvic lymph nodes, 
extensive omental caking, hepatic masses, and diffuse osseous 
sclerotic foci compatible with widespread metastases. 
4. The constellation of findings are suggestive of a gynecologic 
malignancy.  A recent omental biopsy is pending. 

___: Final pathology  
Morphology and immunoprofile are compatible with a gynecological 
primary site (ovary, fallopian tube, or endometrium), favor high 
grade serous carcinoma.

 
Brief Hospital Course:
___ w/out significant PMHx admitted w/ severe abdominal pain and 
found to have stage IV high-grade serous ovarian cancer 
(metastatic to the liver, bone, and peritoneum) c/b bowel 
microperforation (s/p drain placement) and B. fragiles 
bacteremia (on vanc/flagyl/aztreonam), who was initiated on 
carboplatin (without paclitaxel) on ___, which she tolerated 
well.

#High grade serous mullerian tumor
Pt has newly diagnosed stage IV serous ovarian cancer with mets 
to the liver, bone and peritoneum.  Tumor markers included: 
CA-125 at OSH (over 700), ___ (147;
nl ___. There were extensive discussion with her primary 
oncologists, gynecology/oncology, and colorectal surgery 
regarding management, and whether to pursue upfront surgery, 
which poses risks of further perforation and damage to an 
already friable bowel versus upfront chemotherapy.  Per the 
surgery services, it seems the bowel perforation is not likely 
amenable to surgical repair without significant risk and 
morbidity.  Therefore, chemotherapy was pursued.  For high grade 
serous mullerian tumor, treatment traditionally consists of 
double agent carboplatin and paclitaxel.  However, this carries 
the risk of neutropenia, and her bowel perforation puts her at 
increased risk for systemic infection.  Therefore, after 
extensive discussion with the patient and her primary 
oncologist, the patient proceeded with single agent carboplatin 
(___), which she has tolerated without adverse effect.  
Carboplatin was dose reduced by 33%. Also started on neupogen on 
___ to prevent neutropenia ___ setting of intraabdominal 
infection. Planning to continue neupogen to complete a 10-day 
course (last day ___. She has outpatient GYN Onc follow up w/ 
Dr. ___ Oncology followup w/ Dr. ___. Plan is to 
continue chemotherapy for now, w/ possible upcoming debulking 
and bowel repair operation. Pt is to continue antibiotics until 
that operation.

#Bowel microperforation/tumor enteric fistula/Secondary 
peritonitis
On admission, patient underwent ___ guided paracentesis draininag 
1L of purulent/feculent material, concerning for a tumor enteric 
fistula versus bowel perforation. Following drainage of 
approximately 1 liter of purulent/feculent ascites, a drain was 
left ___ place.  She underwent two upsizing procedures ___ and 
___ to address both reduction ___ drainage and leakage around 
the drainage site, respectively. Follow-up CT imaging ___ and 
___ with both oral and rectal contrast demonstrated concern 
for a bowel perforation, likely ___ the small bowel. A 
significant amount of intraperitoneal fluid was also noted on 
imaging. Colorectal surgery was consulted ___ light of the bowel 
perforation to assess the need and safety for surgery to perform 
either a diversion or resection and ostomy. Given the patient's 
stable status and ___ light of her metastatic disease, surgery 
was not recommend. To manage her bowel perforation, she was made 
NPO with PPN on ___ and TPN initiated on ___ and she was 
placed on an antibiotic course (see below). During admission, 
she remained afebrile, with minimal abdominal pain, but with 
continued abdominal drainage of fluid (~300-600cc/day).

#Secondary peritonitis & B.fragilis bacteremia: 
Paracentesis culture showed many organisms all sensitive to 
levofloxacin, and patient found to have B. fragilis bacteremia 
as well. For infections, pt was initially on 
vanc/flagyl/aztreonam IV then switched to PO flagyl/levofloxacin 
___ (which she will continue indefinitely).

#Nutrition: 
PPN was started on ___ w/ transition to TPN ___ after ___ 
placed. Cycled down to 18 hours by discharge. She was not cycled 
to 12 hours because of episodes of hypoglycemia during the day. 
She was advanced to juice, which she tolerated well and improved 
her BGS. 

TRANSITIONAL ISSUES
1. Pt scheduled for f/u w/ Dr. ___ Gynecology ___ 
and w/ Dr. ___ Oncology
2. Pt to continue TPN at night. She should be continued at 18 
hours for now, since she experienced episodes of hypoglycemia 
during the day with cycling down her TPN. Pt needs close 
monitoring of her BGS every 4 hours.
3. Pt to continue having juice as tolerating. Could consider 
re-imaging ___ 3 weeks and consider advancing diet at that time.
4. Pt needs close monitoring of the drain output. Once the drain 
output is less than 10cc/day for 3 days ___ a row, she may have 
the drain removed by Interventional Radiology. 
5. Pt needs to have drain flushed forward with 5 cc towards the 
body and 5 cc towards the bag with sterile saline TID. 
6. If catheter stops draining suddenly: Check that the stopcock 
is open. Remove dressing carefully and inspect to make sure that 
there is no kink ___ the catheter. Inspect to be sure that there 
is no debris blocking the catheter. If there is, then firmly 
flush 5 cc of sterile saline into the catheter.
7. Consider allergy consult for penicillin desensitization as 
outpatient
8. Patient will have weekly lab draws on ___ for TPN 
management at ___ (please see TPN order for fax number)
 
Medications on Admission:
Oxycodone 10mg Q6
Colace prn
 
Discharge Medications:
1. Filgrastim 300 mcg SC Q24H Duration: 10 Doses 
RX *filgrastim [Neupogen] 300 mcg/0.5 mL 300 mcg SC Q24H Disp 
#*5 Syringe Refills:*0
2. Octreotide Acetate 100 mcg SC Q8H 
RX *octreotide acetate 100 mcg/mL (1 mL) 100 mcg SC every eight 
(8) hours Disp #*40 Syringe Refills:*0
3. Levofloxacin 500 mg PO Q24H 
RX *levofloxacin 500 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
4. MetRONIDAZOLE (FLagyl) 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth three times a day 
Disp #*90 Tablet Refills:*0
5. Sodium Chloride 0.9%  Flush ___ mL IV DAILY and PRN, line 
flush 
6. Acetaminophen ___ mg PO Q6H:PRN pain 
7. Docusate Sodium 100 mg PO BID 
8. Lorazepam 1 mg PO QHS:PRN insomnia 
RX *lorazepam 1 mg 1 tablet by mouth prn: anxiety/insomnia Disp 
#*15 Tablet Refills:*0
9. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth Q6hr prn: pain Disp #*30 
Tablet Refills:*0
10. Senna 8.6 mg PO BID:PRN constipation 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
stage IV serous ovarian cancer 
Bacteroides fragiles bacteremia
Secondary bacterial peritonitis
Bowel perforation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the Oncology service at ___ 
___ given your new diagnosis of ovarian 
cancer and your recent severe abdominal pain. You underwent 
multiple procedures while admitted to the hospital, including a 
paracentesis and a biopsy of the omentum. You were found to have 
an infection ___ your abdomen likely from a small hole ___ your 
bowels. You had a procedure done to place a drain ___ this 
infection to allow the fluid to drain. You were also started on 
broad spectrum IV antibiotics and transitioned to oral 
antibiotics. After discussion with oncology, gyn oncology and 
colorectal surgery, it was decided to start treatment with 
chemotherapy. You were also started on a medication called 
neupogen/filgrastim to prevent your blood counts from going too 
low with the chemotherapy and allow your immune system to 
continue fighting your infection. Due to the hole ___ your 
bowels, you were unable to eat solid food. You were started on 
nutrition ___ your IV and you will continue this at home. 

You will follow up with GYN oncology as well as medical oncology 
after discharge to determine the best next steps (see below 
"recommended follow-up" section for further details).

Sincerely,

Your ___ team
 
Followup Instructions:
___